US08258141B2
N-((1S,2R,3S,4R)-4-{6-(2,2-Diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide
A solution of N-{(1S,2R,3S,4R)-4-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide trifluoroacetate (0.2 g, 0.28 mmol) in dry THF (10 ml) is treated with TEA (113 mg, 1.12 mmol) followed by 3-isocyanato-pyridine (38 mg, 0.31 mmol). The reaction mixture is heated at 50° C. overnight. The solvent is removed in vacuo and purification by reverse phase column chromatography (Isolute™ C18, 10-50% acetonitrile in water—0.1% TFA) affords the product. The product is further purified by dissolving in MeOH and treating with saturated sodium bicarbonate solution. The mixture is passed through a pre-washed (400 ml MeOH followed by 400 ml water) eluting with 0.5% ammonia 880: water (100 ml) followed by water (400 ml) and finally MeOH to afford the title compound. (MH+ 693.4)

reactant | N-{(1S,2R,3S,4R)-4-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide trifluoroacetate | 0.28 mmol, 0.2 g | FC(C(=O)O)(F)F.N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-isocyanato-pyridine | 0.31 mmol, 38 mg | N(=C=O)C=1C=NC=CC1 | C6H4N2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-((1S,2R,3S,4R)-4-{6-(2,2-Diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)C1=CC=CC=C1 | C36H40N10O5
